US05434148
(S)-3-{9-methyl-9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-3-methyl-1-(4-fluorophenyl)-5-methoxy-2-indolinone
A mixture of 0.55 g of (S)-3-{9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-3-methyl-1-(4-fluorophenyl)-5-methoxy-2-indolinone, 0.2 ml of methyl iodide, 0.78 g of potassium carbonate and 10 ml of dimethylformamide was stirred at room temperature for 3 hours, and water and ethyl acetate were added to the mixture. The organic layer was separated, washed, dried, and evaporated under reduced pressure. The residue was crystallized from a mixed solvent of hexane and ethyl acetate to afford 0.403 g of the title compound as pale yellow crystals. Melting point: 232° to 233° C., [α]D20 : 0° (c=0.214, CHCl3)

reactant | (S)-3-{9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-3-methyl-1-(4-fluorophenyl)-5-methoxy-2-indolinone | 0.55 g | C1=NC(=CC2=C1NC1=CC=CC=C21)C(=O)[C@]2(C(N(C1=CC=C(C(=C21)N)OC)C2=CC=C(C=C2)F)=O)C | C28H21FN4O3
reactant | methyl iodide | 0.2 ml | CI | CH3I
reactant | potassium carbonate | 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-3-{9-methyl-9H-pyrido[3,4-b]-indol-3-yl-carbonyl}-amino-3-methyl-1-(4-fluorophenyl)-5-methoxy-2-indolinone | 0.403 g | CN1C2=C(C3=CC=CC=C13)C=C(N=C2)C(=O)[C@]2(C(N(C1=CC=C(C(=C21)N)OC)C2=CC=C(C=C2)F)=O)C | C29H23FN4O3
